US03997539
A mixture of 34.8 g (0.22 mol) of gramine and 23.9 g (0.20 mol) of nitrosopiperazine in 700 ml. of toluene is refluxed while stirring under nitrogen for 48 hours. The reaction solution is then concentrated under reduced pressure until a precipitate appears and then is cooled to 0° C. and is filtered. The product is washed with cold toluene and dried to produce crystals of 3-(4-nitrosopiperazin-1-yl)methylindole. This product is recrystallized from toluene to yield pure plates, m.p. 116°-118° C. Analysis: Calculated for C13H16N4O: 63.92% C; 6.60% H; 22.93% N Found: 63.84% C; 6.64% H; 23.06% N.

reactant | gramine | 0.22 mol, 34.8 g | CN(C)CC1=CNC2=C1C=CC=C2 | C11H14N2
reactant | nitrosopiperazine | 0.20 mol, 23.9 g | N(=O)N1CCNCC1 | C4H9N3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-nitrosopiperazin-1-yl)methylindole | N(=O)N1CCN(CC1)CC1=CNC2=CC=CC=C12 | C13H16N4O
